US08138347B2
d) 6-bromo-4-chloro-8-methylquinoline
A mixture of 6-bromo-8-methyl-4-quinolinol (1.42 g, 5.95 mmol) and phosphorous oxychloride (10.95 g, 71.40 mmol) was heated at reflux for 1 h, cooled, poured onto ice, and neutralized by addition of 30% ammonium hydroxide. The resulting solid was filtered and dried in a vacuum oven to give the title compound (1.45 g, 95%) as a tan solid. MS(ES)+ m/e 256 [M+H].

reactant | 6-bromo-8-methyl-4-quinolinol | 5.95 mmol, 1.42 g | BrC=1C=C2C(=CC=NC2=C(C1)C)O | C10H8BrNO
reactant | phosphorous oxychloride | 71.40 mmol, 10.95 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6-bromo-4-chloro-8-methylquinoline | 1.45 g, 95% | BrC=1C=C2C(=CC=NC2=C(C1)C)Cl | C10H7BrClN
